US08735384B2
To a solution of THF (50 mL) and DIPA (1.8 mL, 12.37 mmol) at −70° C. was added n-BuLi (7.7 mL, 12.4 mmol). The mixture was allowed to stir at 0° C. for 1 h. Slow addition of 6-bromo-2-chloroquinoline (3.0 g, 12.4 mmol) in THF (50 mL) was achieved at −75° C. and the mixture was stirred at this temperature for 2 h. Iodine (3.1 g, 12.4 mmol) in 10 ml of THF was then slowly added and the reaction mixture was allowed to stir at −75° C. for 2 h before hydrolysis by THF/water (20% v/v). Water and diethyl ether were added at −10° C. and the reaction mixture was extracted with ether. The organic layer was washed with sodium thiosulfate and water, dried over MgSO4 and concentrated in vacuo to give a yellow solid which was slurried with hexane and filtered to give 6-bromo-2-chloro-3-iodoquinoline as a tan solid.

reactant | n-BuLi | 12.4 mmol, 7.7 mL | [Li]CCCC
reactant | 6-bromo-2-chloroquinoline | 12.4 mmol, 3.0 g | BrC=1C=C2C=CC(=NC2=CC1)Cl | C9H5BrClN
reactant | Iodine | 12.4 mmol, 3.1 g | II | I2
reactant | THF water | C1CCOC1.O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
product | 6-bromo-2-chloro-3-iodoquinoline | BrC=1C=C2C=C(C(=NC2=CC1)Cl)I | C9H4BrClIN
